US07915424B2
5-(3-Chlorophenylethynyl)-nicotinonitrile
Combine 5-Trimethylsilanylethynyl-nicotinonitrile (3.00 g, 15.0 mmol), (prepared as described in PREPARATION 3), bis(triphenylphosphine)palladium (II) dichloride (526 mg, 0.750 mmol), copper (I) iodide (286 mg, 1.50 mmol), and 3-chloroiodobenzene (2.24 μL, 18.0 mmol) in triethylamine (29.3 mL, 210 mmol). Cool the mixture to −78° C. and add a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (15.3 mL, 15.3 mmol). After 5 min warn to room temperature and stir 72 h. Filter the reaction through diatomaceous earth, washing with ethyl acetate. Concentrate the filtrate and purify by silica gel chromatography, eluting with a gradient from 95:5 to 70:30 (90:10 hexanes:ethyl acetate):dichloromethane. Further purify by silica gel chromatography, eluting with dichloromethane, then 90:10 dichloromethane:ethyl acetate. Dissolve the chromatographed material (2.91 g) in cyclohexane (120 mL) at 80° C. and cool to room temperature. Collect the recrystallized material via vacuum filtration to give the title compound as a white crystalline solid (2.58 g, 72%).

reactant | 5-Trimethylsilanylethynyl-nicotinonitrile | 15.0 mmol, 3.00 g | C[Si](C)(C)C#CC=1C=NC=C(C#N)C1 | C11H12N2Si
reactant | 3-chloroiodobenzene | 18.0 mmol, 2.24 μL | ClC=1C=C(C=CC1)I | C6H4ClI
reactant | triethylamine | 210 mmol, 29.3 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 15.3 mmol, 15.3 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium | 0.750 mmol, 526 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 1.50 mmol, 286 mg | [Cu]I
product | 5-(3-Chlorophenylethynyl)-nicotinonitrile | 2.58 g, 72% | ClC=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C14H7ClN2
